US07026324B2
(3-Bromo-2-oxo-2H-pyrazin-1-yl)-acetic acid ethyl ester (17-10)
A solution of (2,3-dioxo-3,4-dihydro-2H-pyrazin-1-yl)-acetic acid ethyl ester (25.0 g, 126 mmol) and phosphorous oxybromide (37.9 g, 132 mmol) in 1,2-dichloroethane (250 mL) was heated to reflux. After 8 h the reaction mixture was treated with sat. aq. Na2CO3 (250 mL) and stirred for 1 h. The mixture was diluted with water (100 mL) and dichloromethane (100 mL), the layers were separated and the aqueous layer was backwashed with EtOAc (3×200 mL). The combined organics were dried (MgSO4), and concentrated to give an oil which was stored on a high vacuum line overnight to afford a brown solid. 1H NMR (CDCl3) δ 7.17 (d, 1H, 4.2 Hz), 7.07 (d, 1H, 4.2 Hz), 4.65 (s, 2H), 4.27 (q, 2H, 7.2 Hz), 1.31 (t, 3H, 7.2 Hz).

reactant | (2,3-dioxo-3,4-dihydro-2H-pyrazin-1-yl)-acetic acid ethyl ester | 126 mmol, 25.0 g | C(C)OC(CN1C(C(NC=C1)=O)=O)=O | C8H10N2O4
reactant | phosphorous oxybromide | 132 mmol, 37.9 g | P(=O)(Br)(Br)Br | Br3OP
reactant | Na2CO3 | 250 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,2-dichloroethane | 250 mL | ClCCCl | C2H4Cl2
solvent | water | 100 mL | O | H2O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (3-Bromo-2-oxo-2H-pyrazin-1-yl)-acetic acid ethyl ester | C(C)OC(CN1C(C(=NC=C1)Br)=O)=O | C8H9BrN2O3
